US07368578B2
A mixture of 5-chloromethyl-2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}pyridine (1.30 g), ethyl 1-benzyl-3-hydroxy-1H-pyrazole-4-carboxylate (1.06 g), potassium carbonate (0.59 g) and N,N-dimethylformamide (50 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give ethyl 1-benzyl-3-[(6-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-pyridinyl)methoxy]-1H-pyrazole-4-carboxylate as colorless crystals (2.00 g, yield 90%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 140-141° C.

reactant | 5-chloromethyl-2-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}pyridine | 1.30 g | ClCC=1C=CC(=NC1)OCC=1N=C(OC1C)C=1OC=CC1 | C15H13ClN2O3
reactant | ethyl 1-benzyl-3-hydroxy-1H-pyrazole-4-carboxylate | 1.06 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)O | C13H14N2O3
reactant | potassium carbonate | 0.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 1-benzyl-3-[(6-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-pyridinyl)methoxy]-1H-pyrazole-4-carboxylate | 2.00 g, yield 90% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC=1C=NC(=CC1)OCC=1N=C(OC1C)C=1OC=CC1 | C28H26N4O6
